US05523475
4,6-Dibromo-3-hydroxy-N-(2-thienyl)methylanthranilic acid
A solution of 2-thiophenecarboxaldehyde (38 mg, 0.34 mmol) in dry methanol (0.8 mL) was added to a mixture of 4,6-dibromo-3-hydroxyanthranilic acid (105 mg, 0.34 mmol) and Na2SO4 (240 mg, 1.7 mmol) in methanol (2 mL). The reaction mixture was stirred overnight at room temperature. Sodium cyanoborohydride (32 mg, 0.51 mmol) was added, and the mixture was stirred for 2 days at room temperature. Conc. acetic acid (1 mL) was added, and the solvent was removed in vacuo. The residue was partitioned between brine and EtOAc (20 mL). The layers were separated and the aqueous layer was extracted with EtOAc (20 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The obtained material was purified by column chromatography (SiO2, CH2Cl2 -hexane-EtOAc-conc. HOAc 30:30:20:3). Preparative HPLC (H2O-acetonitrile-conc. HOAc 50:50:1) yielded the title compound as a yellowish solid (17 mg): 1H NMR (CD 3 OD-d4) 7.26 (dd, J=5 Hz, 1 Hz), 7.20 (s, 1H), 6.99 (m, 1H), 6.92 (dd, J=5 Hz, J=5 Hz, 1H), 4.54 (s, 2H); MS (TSP): m/z (rel. int.) 410/408/406 (M+1, 5/12/7), 234/232 (31/28), 154 (100).

reactant | 2-thiophenecarboxaldehyde | 0.34 mmol, 38 mg | S1C(=CC=C1)C=O | C5H4OS
reactant | 4,6-dibromo-3-hydroxyanthranilic acid | 0.34 mmol, 105 mg | BrC=1C(=C(C(C(=O)O)=C(C1)Br)N)O | C7H5Br2NO3
reactant | Na2SO4 | 1.7 mmol, 240 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Sodium cyanoborohydride | 0.51 mmol, 32 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 0.8 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 4,6-Dibromo-3-hydroxy-N-(2-thienyl)methylanthranilic acid | 17 mg | BrC=1C(=C(C(C(=O)O)=C(C1)Br)NCC=1SC=CC1)O | C12H9Br2NO3S
